US04228170
To (122 g., 0.68 m.) 8-chloro-7-hydroxyisoquinoline in 180 ml. of dimethylformamide was added (450 g., 4.5 m.) triethylamine followed by (140 g., 0.87 m) dimethylthiocarbamoyl chloride. The mixture was stirred for four hours at room temperature and then poured into 5400 ml. of water. The resulting solid was collected by filtration, dried, dissolved in chloroform, dried with sodium sulfate and evaporated to yield 8-chloro-7-dimethylthiocarbamoylisoquinoline.

reactant | 8-chloro-7-hydroxyisoquinoline | 122 g | ClC=1C(=CC=C2C=CN=CC12)O | C9H6ClNO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | triethylamine | 450 g | C(C)N(CC)CC | C6H15N
reactant | dimethylthiocarbamoyl chloride | 140 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | water | O | H2O
product | 8-chloro-7-dimethylthiocarbamoylisoquinoline | ClC=1C(=CC=C2C=CN=CC12)C(N(C)C)=S | C12H11ClN2S
